US07696192B2
Step A. 1,3-Dihydro-2H-imidazo[4,5-c]pyridin-2-one
A combination of pyridine-3,4-diamine (1.0 g, 9.16 mmol) and urea (3.3 g, 54.9 mmol) were stirred as a melt at 165° C. for 4 h, then cooled and H2O (100 mL) was added. The aqueous mixture was heated at reflux until all solid dissolved and the solution was allowed to cool and aged for 18 h. The precipitate was isolated by filtration to give the title compound. MS: m/z=136 (M+1).

reactant | pyridine-3,4-diamine | 9.16 mmol, 1.0 g | N1=CC(=C(C=C1)N)N | C5H7N3
reactant | urea | 54.9 mmol, 3.3 g | NC(=O)N | CH4N2O
solvent | H2O | 100 mL | O | H2O
product | 1,3-Dihydro-2H-imidazo[4,5-c]pyridin-2-one | N1C(NC=2C=NC=CC21)=O | C6H5N3O
